US04230620
To 150 ml. of water were added 11.6 grams (110 millimoles) of sodium carbonate followed by 100 ml. of acetone. To the mixture then were added portion-wise 10.8 grams (50 millimoles) of 6-amino-2,2-dimethylpenam-3-carboxylic acid. The resulting suspension was stirred for about one hour with formation of an almost clear solution. The mixture then was cooled to 2° C., pH 10.2. Benzoyl chloride (6.4 ml.; 55 millimoles) was added dropwise over a 9 minute period (pH 7.4) followed by dropwise addition over a 5 minute period of 16.9 grams of Oxone® in 80 ml. of water. A 6° C. exotherm was noticed. The resulting suspension was stirred in an ice bath for 1 hour. The pH of the resulting mixture was 7.0. Concentrated hydrochloric acid (9 ml.) was added to pH 2.0, and the mixture was extracted twice with ethyl acetate. The organic layer was dried over sodium sulfate and evaporated to dryness. A small amount of ethyl acetate was added to the residue, and the product was allowed to crystallize overnight at room temperature to afford 11.6 grams (69%) of 6-benzamido-2,2-dimethylpenam-3-carboxylic acid 1-oxide.

reactant | sodium carbonate | 110 millimoles, 11.6 grams | C([O-])([O-])=O.[Na+].[Na+]
reactant | 6-amino-2,2-dimethylpenam-3-carboxylic acid | 50 millimoles, 10.8 grams | NC1[C@@H]2N(C(C(S2)(C)C)C(=O)O)C1=O | C8H12N2O3S
reactant | Benzoyl chloride | 55 millimoles, 6.4 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | Oxone | 16.9 grams | OOS(=O)[O-].[K+]
reactant | hydrochloric acid | 9 ml | Cl | ClH
solvent | water | O | H2O
solvent | acetone | CC(=O)C | C3H6O
product | 6-benzamido-2,2-dimethylpenam-3-carboxylic acid 1-oxide | 11.6 grams, 69% | C(C1=CC=CC=C1)(=O)NC1[C@@H]2N(C(C(S2=O)(C)C)C(=O)O)C1=O | C15H16N2O5S
